US04217357
3-(Dimethylaminomethyl)-2-isopropylindole (1.7 g.) and imidazole (0.6 g.) were heated at the reflux temperature in xylene (50 ml.) for a period of one hour. The solution was then cooled to room temperature (~20° C.) and petroleum ether (b.p. 60°-80° C.) was added until a faint cloudiness appeared. The resulting mixture was then allowed to stand at room temperature (~20° C.), whereupon the desired product soon crystallized from solution and was subsequently recovered by means of suction filtration. Recrystallization of the latter material from industrial methylated spirits (i.e., ethyl alcohol denatured with methanol) then gave pure 3-(imidazol-1-ylmethyl)-2-isopropylindole (yield, 0.5 g.), m.p. 241°-216° C.

reactant | 3-(Dimethylaminomethyl)-2-isopropylindole | 1.7 g | CN(C)CC1=C(NC2=CC=CC=C12)C(C)C | C14H20N2
reactant | imidazole | 0.6 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(imidazol-1-ylmethyl)-2-isopropylindole | 0.5 g | N1(C=NC=C1)CC1=C(NC2=CC=CC=C12)C(C)C | C15H17N3
